### PR TITLE
Add progress and preservation theorems for L2

### PR DESCRIPTION
**Pull request by michaelleejl**

### CODE REVIEW

**Comment by yallop** [comment]
> Currently relying on uniqueness of identity proofs

Changing the various definitions of `LetValRec` to take two types rather than three (i.e. not repeating the argument type) should help.

File: .github/workflows/check-l2.yml [hunk 1]
```diff
@@ -15,4 +15,15 @@ jobs:
...
+    name: Check L2 Theorems
+    runs-on: ubuntu-latest
+    steps:
+      - uses: actions/checkout@v3
+
+      - uses: wenkokke/setup-agda@v2
+        with:
+          agda-version: '2.6.4.1'
+          agda-stdlib-version: 'recommended'
+      - run: agda -c -i $HOME/.agda/libraries.d/standard-library/v2.0/src L2-Theorems.agda
```
Comment (yallop) [inline .github/workflows/check-l2.yml:28]:
```suggestion
      - run: agda -c -i $HOME/.agda/libraries.d/standard-library/v2.0/src L2-Theorems.agda
```

File: L2-Theorems.agda [hunk 2]
```diff
@@ -69,3 +76,131 @@ Substitution {Σ} deriv = ⊢-induction-simple case deriv where
...
+dom⊆-extend {ℓ} (x ∷ s) d⊆ {ℓ'} eq with ℓ ≟ ℓ' | d⊆ eq
+... | yes refl | _  = ⟨ _ , refAssignSame (x ∷ s) ℓ ⟩
+dom⊆-extend s d⊆ _ | no ¬p | ⟨ fst , eq' ⟩ = ⟨ fst , trans (refAssignDiff s ¬p) eq' ⟩
+
+data val-or-step (s : Store) (e : Expression) : Set where
+  val : Value e →  val-or-step s e
+  step : ∀ {e' s'} → ⟨ e , s ⟩ ⟶ ⟨ e' , s' ⟩ → val-or-step s e
+
+-- Theorem 18: Progress
+Progress : ∀ {Σ Γ e T s} → Σ ⨾ Γ ⊢ e ∶ T → dom⊆ Σ s → Γ ≡ • → val-or-step s e
```
Comment (yallop) [inline L2-Theorems.agda]: I think the proof might be easier without a separate equality proof `Γ ≡ •`, i.e. if you move the assumption that the environment is empty into the derivation:

```agda
Progress : ∀ {Σ e T s} → Σ ⨾ • ⊢ e ∶ T → dom⊆ Σ s → val-or-step s e
```

File: L2-Theorems.agda [hunk 3]
```diff
@@ -69,3 +76,131 @@ Substitution {Σ} deriv = ⊢-induction-simple case deriv where
...
+  case     (assign2 h)          (assign ℓ e)     d⊆ with ⟨ e' , d⊆' ⟩ ← h e d⊆ = ⟨ assign ℓ e' , d⊆' ⟩
+  case     seq1                 (seq _ e)        d⊆ = ⟨ e , d⊆ ⟩
+  case     (seq2 h₁)            (seq e₁ e₂)      d⊆ with ⟨ e₁' , d⊆' ⟩ ← h₁ e₁ d⊆ = ⟨ seq e₁' e₂ , d⊆' ⟩
+  case     if1                  (if _ e₂ _)      d⊆ = ⟨ e₂ , d⊆ ⟩
+  case     if2                  (if _ _ e₃)      d⊆ = ⟨ e₃ , d⊆ ⟩
+  case     (if3 h₁)             (if e₁ e₂ e₃)    d⊆ with ⟨ e₁' , d⊆' ⟩ ← h₁ e₁ d⊆ = ⟨ if e₁' e₂ e₃ , d⊆' ⟩
+  case     while                (while e₁ e₂)    d⊆ = ⟨ if e₁ (seq e₂ (while e₁ e₂)) skip , d⊆ ⟩
+  case     (app1 h₁)            (app e₁ e₂)      d⊆ with ⟨ e₁' , d⊆' ⟩ ← h₁ e₁ d⊆ = ⟨ app e₁' e₂ , d⊆' ⟩
+  case     (app2 _ h₂)          (app v₁ e₂)      d⊆ with ⟨ e₂' , d⊆' ⟩ ← h₂ e₂ d⊆ = ⟨ app v₁ e₂' , d⊆' ⟩
+  case     (fn {e = e} _)   {T} (app (fn v₁) v₂) d⊆ = ⟨ Substitution {Σ} {e = e} {T} v₁ {{[e]ₛ-has-type v₂}} , d⊆ ⟩
```
Comment (yallop) [inline L2-Theorems.agda]:
```suggestion
  case     (fn _)   (app (fn v₁) v₂) d⊆ = ⟨ Substitution v₁ {{[e]ₛ-has-type v₂}} , d⊆ ⟩
```

File: L2-Theorems.agda [hunk 4]
```diff
@@ -69,3 +76,131 @@ Substitution {Σ} deriv = ⊢-induction-simple case deriv where
...
+  case     (let1 h₁)            (letval e₁ e₂)   d⊆ with ⟨ e₁' , d⊆' ⟩ ← h₁ e₁ d⊆ = ⟨ letval e₁' e₂ , d⊆' ⟩
+  case     (let2 {e = e} _) {T} (letval v₁ e₂)   d⊆ = ⟨ Substitution {Σ} {e = e} {T} e₂ {{[e]ₛ-has-type v₁}} , d⊆ ⟩
```
Comment (yallop) [inline L2-Theorems.agda]:
```suggestion
  case     (let2 _) (letval v₁ e₂)   d⊆ = ⟨ Substitution e₂ {{[e]ₛ-has-type v₁}} , d⊆ ⟩
```

File: L2-Theorems.agda [hunk 5]
```diff
@@ -69,3 +76,131 @@ Substitution {Σ} deriv = ⊢-induction-simple case deriv where
...
+  case     letrecfn         {T} (letrecfn e₁ e₂) d⊆ = ⟨ Substitution {Σ} {T = T} e₂ {{[e]ₛ-has-type (fn (letrecfn (Renaming e₁ {{≥2?↑-has-type}}) (Renaming e₁ {{⇄-has-type}})))}} , d⊆ ⟩
```
Comment (yallop) [inline L2-Theorems.agda]:
```suggestion
  case     letrecfn         (letrecfn e₁ e₂) d⊆ = ⟨ Substitution e₂ {{[e]ₛ-has-type (fn (letrecfn (Renaming e₁ {{≥2?↑-has-type}}) (Renaming e₁ {{⇄-has-type}})))}} , d⊆ ⟩
```

**Comment by yallop** [comment]
Thanks!  I've cherry-picked the version that uses rule induction to prove progress, since that's the approach used that's in the notes.
